US07067658B2
Trifluoro-methanesulfonic acid 4-(2-chloro-4-methoxy-5-methyl-phenyl)-3-nitro-pyridin-2-yl ester (0.22 g, 0.51 mmol), prepared substantially as described in Part C of Example 19a, and 1-cyclopropyl-propylamine (0.17 g, 1.29 mmol) were treated substantially as described in Part C of Example 19a to produce 90 mg (47%) of crude [4-(2-chloro-4-methoxy-5-methyl-phenyl)-3-nitro-pyridin-2-yl]-(1-cyclopropyl-propyl)-amine: MS (EI) m/z 376.18 [(M+H)+, 100].

reactant | Trifluoro-methanesulfonic acid 4-(2-chloro-4-methoxy-5-methyl-phenyl)-3-nitro-pyridin-2-yl ester | 0.51 mmol, 0.22 g | ClC1=C(C=C(C(=C1)OC)C)C1=C(C(=NC=C1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C14H10ClF3N2O6S
reactant | 1-cyclopropyl-propylamine | 1.29 mmol, 0.17 g | C1(CC1)C(CC)N | C6H13N
product | [4-(2-chloro-4-methoxy-5-methyl-phenyl)-3-nitro-pyridin-2-yl]-(1-cyclopropyl-propyl)-amine | 90 mg, 47% | ClC1=C(C=C(C(=C1)OC)C)C1=C(C(=NC=C1)NC(CC)C1CC1)[N+](=O)[O-] | C19H22ClN3O3
